US04416683
A solution containing 13.0 g of 2-ethyl-2-methylbutyric acid and 9.1 g of thiosemicarbazide in 125 ml of dioxane was stirred and heated to 90° C. To the stirred reaction mixture was added dropwise over thirty minutes 15.3 g of phosphorous oxychloride. Following complete addition, the reaction mixture was heated at 90° C. for six hours. The mixture was then cooled to about 30° C. and added to 100 g of ice. The aqueous mixture was made alkaline by the addition of ammonium hydroxide, and the alkaline solution was extracted several times with ethyl acetate. The extracts were combined, washed with water, dried, and the solvent was removed by evaporation under reduced pressure to afford 17.0 g of 2-amino-5-(1-ethyl-1-methylpropyl)-1,3,4-thiadiazole.

reactant | 2-ethyl-2-methylbutyric acid | 13.0 g | C(C)C(C(=O)O)(CC)C | C7H14O2
reactant | thiosemicarbazide | 9.1 g | NNC(=S)N | CH5N3S
reactant | phosphorous oxychloride | 15.3 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | dioxane | 125 ml | O1CCOCC1 | C4H8O2
product | 2-amino-5-(1-ethyl-1-methylpropyl)-1,3,4-thiadiazole | 17.0 g | NC=1SC(=NN1)C(CC)(C)CC | C8H15N3S
